US06140385
Synthesis of 4,4'-bis(4-Isopropylphenoxy)benzophenone
To a solution of 4-isopropylphenol (20.4 g.) in 30 ml of dimethylformamide was added slowly a slurry of sodium hydride, 60% in mineral oil (6.0 g.) in 150 ml of dimethylformamide. When the reaction was complete, 8.5 g. of 4,4'-dibromobenzophenone and 1.0 g. dendritic copper powder were added and the reaction mixture heated to reflux and held at reflux for 24 hours. The solvent was removed under vacuum and the residue poured into ice-water. The crude product was recrystallized from ethanol to give the desired compound, mp 104-105° C. Structure was confirmed by IR, NMR, C-13 NMR and MS.

reactant | 4-isopropylphenol | 20.4 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | sodium hydride | [H-].[Na+]
reactant | 4,4'-dibromobenzophenone | BrC1=CC=C(C(=O)C2=CC=C(C=C2)Br)C=C1 | C13H8Br2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | copper | [Cu] | Cu
product | 4,4'-bis(4-Isopropylphenoxy)benzophenone | C(C)(C)C1=CC=C(OC2=CC=C(C(=O)C3=CC=C(C=C3)OC3=CC=C(C=C3)C(C)C)C=C2)C=C1 | C31H30O3
